US07977331B1
To a solution of tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethyl]carbamate (112 mg, 0.273 mmol) in ethyl acetate (1 ml) was added 4N HCl-ethyl acetate solution (1 ml), and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, and hexane:diethyl ether (3:1) solution was added to the obtained residue. The precipitated solid was collected by filtration and washed with hexane:diethyl ether (3:1) solution. The obtained solid was dried in vacuo to give (S)-2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethylamine hydrochloride (66 mg, yield 70%).

reactant | tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethyl]carbamate | 0.273 mmol, 112 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C=1SC=CN1)NC(OC(C)(C)C)=O | C23H26N2O3S
reactant | HCl ethyl acetate | 4N, 1 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethylamine hydrochloride | 66 mg, yield 70% | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C=1SC=CN1)N | InChI=1S/C18H18N2OS.ClH/c19-17(18-20-10-11-22-18)12-14-6-8-16(9-7-14)21-13-15-4-2-1-3-5-15;/h1-11,17H,12-13,19H2;1H/t17-;/m0./s1
